** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-197/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant K10b: 300 cycles, nominal period
** 3.9952 ns, injected period jitter 1.000000% RMS
** (seeded RNG, seed 185010), TR = TF = 200 ps.
VCLK CLK GND pwl(
+ 0.000000n 0 1.900000n 0 2.100000n 1.8 3.906868n 1.8
+ 4.106868n 0 5.913737n 0 6.113737n 1.8 7.930749n 1.8
+ 8.130749n 0 9.947762n 0 10.147762n 1.8 11.905327n 1.8
+ 12.105327n 0 13.862893n 0 14.062893n 1.8 15.874151n 1.8
+ 16.074151n 0 17.885409n 0 18.085409n 1.8 19.906369n 1.8
+ 20.106369n 0 21.927329n 0 22.127329n 1.8 23.908800n 1.8
+ 24.108800n 0 25.890271n 0 26.090271n 1.8 27.859216n 1.8
+ 28.059216n 0 29.828161n 0 30.028161n 1.8 31.836417n 1.8
+ 32.036417n 0 33.844672n 0 34.044672n 1.8 35.835470n 1.8
+ 36.035470n 0 37.826269n 0 38.026269n 1.8 39.831551n 1.8
+ 40.031551n 0 41.836833n 0 42.036833n 1.8 43.829109n 1.8
+ 44.029109n 0 45.821386n 0 46.021386n 1.8 47.804864n 1.8
+ 48.004864n 0 49.788342n 0 49.988342n 1.8 51.798994n 1.8
+ 51.998994n 0 53.809645n 0 54.009645n 1.8 55.802926n 1.8
+ 56.002926n 0 57.796206n 0 57.996206n 1.8 59.789520n 1.8
+ 59.989520n 0 61.782833n 0 61.982833n 1.8 63.784515n 1.8
+ 63.984515n 0 65.786196n 0 65.986196n 1.8 67.779150n 1.8
+ 67.979150n 0 69.772105n 0 69.972105n 1.8 71.777720n 1.8
+ 71.977720n 0 73.783336n 0 73.983336n 1.8 75.776033n 1.8
+ 75.976033n 0 77.768730n 0 77.968730n 1.8 79.794197n 1.8
+ 79.994197n 0 81.819664n 0 82.019664n 1.8 83.769445n 1.8
+ 83.969445n 0 85.719226n 0 85.919226n 1.8 87.734017n 1.8
+ 87.934017n 0 89.748808n 0 89.948808n 1.8 91.723254n 1.8
+ 91.923254n 0 93.697699n 0 93.897699n 1.8 95.679909n 1.8
+ 95.879909n 0 97.662119n 0 97.862119n 1.8 99.621300n 1.8
+ 99.821300n 0 101.580481n 0 101.780481n 1.8 103.595049n 1.8
+ 103.795049n 0 105.609618n 0 105.809618n 1.8 107.576033n 1.8
+ 107.776033n 0 109.542448n 0 109.742448n 1.8 111.522278n 1.8
+ 111.722278n 0 113.502108n 0 113.702108n 1.8 115.490909n 1.8
+ 115.690909n 0 117.479710n 0 117.679710n 1.8 119.489767n 1.8
+ 119.689767n 0 121.499823n 0 121.699823n 1.8 123.485293n 1.8
+ 123.685293n 0 125.470762n 0 125.670762n 1.8 127.468338n 1.8
+ 127.668338n 0 129.465914n 0 129.665914n 1.8 131.438468n 1.8
+ 131.638468n 0 133.411021n 0 133.611021n 1.8 135.387746n 1.8
+ 135.587746n 0 137.364470n 0 137.564470n 1.8 139.375488n 1.8
+ 139.575488n 0 141.386505n 0 141.586505n 1.8 143.355124n 1.8
+ 143.555124n 0 145.323743n 0 145.523743n 1.8 147.330127n 1.8
+ 147.530127n 0 149.336511n 0 149.536511n 1.8 151.336412n 1.8
+ 151.536412n 0 153.336312n 0 153.536312n 1.8 155.334438n 1.8
+ 155.534438n 0 157.332563n 0 157.532563n 1.8 159.302080n 1.8
+ 159.502080n 0 161.271597n 0 161.471597n 1.8 163.261954n 1.8
+ 163.461954n 0 165.252312n 0 165.452312n 1.8 167.240084n 1.8
+ 167.440084n 0 169.227855n 0 169.427855n 1.8 171.208915n 1.8
+ 171.408915n 0 173.189975n 0 173.389975n 1.8 175.221140n 1.8
+ 175.421140n 0 177.252304n 0 177.452304n 1.8 179.225428n 1.8
+ 179.425428n 0 181.198553n 0 181.398553n 1.8 183.177383n 1.8
+ 183.377383n 0 185.156213n 0 185.356213n 1.8 187.134249n 1.8
+ 187.334249n 0 189.112284n 0 189.312284n 1.8 191.080579n 1.8
+ 191.280579n 0 193.048873n 0 193.248873n 1.8 195.035491n 1.8
+ 195.235491n 0 197.022108n 0 197.222108n 1.8 199.016402n 1.8
+ 199.216402n 0 201.010697n 0 201.210697n 1.8 202.983468n 1.8
+ 203.183468n 0 204.956239n 0 205.156239n 1.8 206.903129n 1.8
+ 207.103129n 0 208.850019n 0 209.050019n 1.8 210.843924n 1.8
+ 211.043924n 0 212.837828n 0 213.037828n 1.8 214.831318n 1.8
+ 215.031318n 0 216.824807n 0 217.024807n 1.8 218.836297n 1.8
+ 219.036297n 0 220.847786n 0 221.047786n 1.8 222.836679n 1.8
+ 223.036679n 0 224.825572n 0 225.025572n 1.8 226.831121n 1.8
+ 227.031121n 0 228.836670n 0 229.036670n 1.8 230.856117n 1.8
+ 231.056117n 0 232.875565n 0 233.075565n 1.8 234.861507n 1.8
+ 235.061507n 0 236.847450n 0 237.047450n 1.8 238.853750n 1.8
+ 239.053750n 0 240.860050n 0 241.060050n 1.8 242.869614n 1.8
+ 243.069614n 0 244.879179n 0 245.079179n 1.8 246.874196n 1.8
+ 247.074196n 0 248.869214n 0 249.069214n 1.8 250.851858n 1.8
+ 251.051858n 0 252.834502n 0 253.034502n 1.8 254.821302n 1.8
+ 255.021302n 0 256.808103n 0 257.008103n 1.8 258.853592n 1.8
+ 259.053592n 0 260.899081n 0 261.099081n 1.8 262.930705n 1.8
+ 263.130705n 0 264.962328n 0 265.162328n 1.8 266.959836n 1.8
+ 267.159836n 0 268.957344n 0 269.157344n 1.8 270.998802n 1.8
+ 271.198802n 0 273.040261n 0 273.240261n 1.8 275.021586n 1.8
+ 275.221586n 0 277.002912n 0 277.202912n 1.8 279.006153n 1.8
+ 279.206153n 0 281.009395n 0 281.209395n 1.8 283.025596n 1.8
+ 283.225596n 0 285.041797n 0 285.241797n 1.8 287.040823n 1.8
+ 287.240823n 0 289.039849n 0 289.239849n 1.8 291.035435n 1.8
+ 291.235435n 0 293.031020n 0 293.231020n 1.8 295.003891n 1.8
+ 295.203891n 0 296.976762n 0 297.176762n 1.8 298.932940n 1.8
+ 299.132940n 0 300.889119n 0 301.089119n 1.8 302.893759n 1.8
+ 303.093759n 0 304.898400n 0 305.098400n 1.8 306.883702n 1.8
+ 307.083702n 0 308.869004n 0 309.069004n 1.8 310.901086n 1.8
+ 311.101086n 0 312.933167n 0 313.133167n 1.8 314.885033n 1.8
+ 315.085033n 0 316.836899n 0 317.036899n 1.8 318.807517n 1.8
+ 319.007517n 0 320.778136n 0 320.978136n 1.8 322.775344n 1.8
+ 322.975344n 0 324.772553n 0 324.972553n 1.8 326.760103n 1.8
+ 326.960103n 0 328.747653n 0 328.947653n 1.8 330.729800n 1.8
+ 330.929800n 0 332.711948n 0 332.911948n 1.8 334.735185n 1.8
+ 334.935185n 0 336.758422n 0 336.958422n 1.8 338.743197n 1.8
+ 338.943197n 0 340.727972n 0 340.927972n 1.8 342.728840n 1.8
+ 342.928840n 0 344.729709n 0 344.929709n 1.8 346.754666n 1.8
+ 346.954666n 0 348.779624n 0 348.979624n 1.8 350.763028n 1.8
+ 350.963028n 0 352.746432n 0 352.946432n 1.8 354.734888n 1.8
+ 354.934888n 0 356.723344n 0 356.923344n 1.8 358.700689n 1.8
+ 358.900689n 0 360.678035n 0 360.878035n 1.8 362.670676n 1.8
+ 362.870676n 0 364.663317n 0 364.863317n 1.8 366.695105n 1.8
+ 366.895105n 0 368.726893n 0 368.926893n 1.8 370.718777n 1.8
+ 370.918777n 0 372.710662n 0 372.910662n 1.8 374.697684n 1.8
+ 374.897684n 0 376.684707n 0 376.884707n 1.8 378.680259n 1.8
+ 378.880259n 0 380.675811n 0 380.875811n 1.8 382.707794n 1.8
+ 382.907794n 0 384.739776n 0 384.939776n 1.8 386.715480n 1.8
+ 386.915480n 0 388.691183n 0 388.891183n 1.8 390.701576n 1.8
+ 390.901576n 0 392.711968n 0 392.911968n 1.8 394.705911n 1.8
+ 394.905911n 0 396.699854n 0 396.899854n 1.8 398.708484n 1.8
+ 398.908484n 0 400.717115n 0 400.917115n 1.8 402.700414n 1.8
+ 402.900414n 0 404.683714n 0 404.883714n 1.8 406.703290n 1.8
+ 406.903290n 0 408.722866n 0 408.922866n 1.8 410.749272n 1.8
+ 410.949272n 0 412.775678n 0 412.975678n 1.8 414.750775n 1.8
+ 414.950775n 0 416.725872n 0 416.925872n 1.8 418.738691n 1.8
+ 418.938691n 0 420.751511n 0 420.951511n 1.8 422.709557n 1.8
+ 422.909557n 0 424.667604n 0 424.867604n 1.8 426.667201n 1.8
+ 426.867201n 0 428.666798n 0 428.866798n 1.8 430.651460n 1.8
+ 430.851460n 0 432.636122n 0 432.836122n 1.8 434.604399n 1.8
+ 434.804399n 0 436.572676n 0 436.772676n 1.8 438.582073n 1.8
+ 438.782073n 0 440.591471n 0 440.791471n 1.8 442.593817n 1.8
+ 442.793817n 0 444.596162n 0 444.796162n 1.8 446.611088n 1.8
+ 446.811088n 0 448.626014n 0 448.826014n 1.8 450.612949n 1.8
+ 450.812949n 0 452.599883n 0 452.799883n 1.8 454.602135n 1.8
+ 454.802135n 0 456.604387n 0 456.804387n 1.8 458.593217n 1.8
+ 458.793217n 0 460.582048n 0 460.782048n 1.8 462.601216n 1.8
+ 462.801216n 0 464.620384n 0 464.820384n 1.8 466.601278n 1.8
+ 466.801278n 0 468.582172n 0 468.782172n 1.8 470.571185n 1.8
+ 470.771185n 0 472.560197n 0 472.760197n 1.8 474.561301n 1.8
+ 474.761301n 0 476.562405n 0 476.762405n 1.8 478.549756n 1.8
+ 478.749756n 0 480.537107n 0 480.737107n 1.8 482.524409n 1.8
+ 482.724409n 0 484.511711n 0 484.711711n 1.8 486.514858n 1.8
+ 486.714858n 0 488.518005n 0 488.718005n 1.8 490.534160n 1.8
+ 490.734160n 0 492.550315n 0 492.750315n 1.8 494.552302n 1.8
+ 494.752302n 0 496.554289n 0 496.754289n 1.8 498.557062n 1.8
+ 498.757062n 0 500.559835n 0 500.759835n 1.8 502.556057n 1.8
+ 502.756057n 0 504.552279n 0 504.752279n 1.8 506.590393n 1.8
+ 506.790393n 0 508.628506n 0 508.828506n 1.8 510.639218n 1.8
+ 510.839218n 0 512.649929n 0 512.849929n 1.8 514.659579n 1.8
+ 514.859579n 0 516.669228n 0 516.869228n 1.8 518.688319n 1.8
+ 518.888319n 0 520.707411n 0 520.907411n 1.8 522.745334n 1.8
+ 522.945334n 0 524.783257n 0 524.983257n 1.8 526.782089n 1.8
+ 526.982089n 0 528.780922n 0 528.980922n 1.8 530.773835n 1.8
+ 530.973835n 0 532.766748n 0 532.966748n 1.8 534.786556n 1.8
+ 534.986556n 0 536.806364n 0 537.006364n 1.8 538.812310n 1.8
+ 539.012310n 0 540.818257n 0 541.018257n 1.8 542.842104n 1.8
+ 543.042104n 0 544.865952n 0 545.065952n 1.8 546.883785n 1.8
+ 547.083785n 0 548.901619n 0 549.101619n 1.8 550.872496n 1.8
+ 551.072496n 0 552.843372n 0 553.043372n 1.8 554.864826n 1.8
+ 555.064826n 0 556.886279n 0 557.086279n 1.8 558.907819n 1.8
+ 559.107819n 0 560.929359n 0 561.129359n 1.8 562.941562n 1.8
+ 563.141562n 0 564.953765n 0 565.153765n 1.8 566.945620n 1.8
+ 567.145620n 0 568.937474n 0 569.137474n 1.8 570.948728n 1.8
+ 571.148728n 0 572.959981n 0 573.159981n 1.8 574.972845n 1.8
+ 575.172845n 0 576.985709n 0 577.185709n 1.8 578.981325n 1.8
+ 579.181325n 0 580.976940n 0 581.176940n 1.8 582.986865n 1.8
+ 583.186865n 0 584.996790n 0 585.196790n 1.8 587.021024n 1.8
+ 587.221024n 0 589.045258n 0 589.245258n 1.8 591.082802n 1.8
+ 591.282802n 0 593.120346n 0 593.320346n 1.8 595.082387n 1.8
+ 595.282387n 0 597.044429n 0 597.244429n 1.8 599.027784n 1.8
+ 599.227784n 0 601.011139n 0 601.211139n 1.8 602.996769n 1.8
+ 603.196769n 0 604.982399n 0 605.182399n 1.8 606.982382n 1.8
+ 607.182382n 0 608.982365n 0 609.182365n 1.8 610.975906n 1.8
+ 611.175906n 0 612.969446n 0 613.169446n 1.8 614.994037n 1.8
+ 615.194037n 0 617.018627n 0 617.218627n 1.8 619.025290n 1.8
+ 619.225290n 0 621.031952n 0 621.231952n 1.8 623.014086n 1.8
+ 623.214086n 0 624.996219n 0 625.196219n 1.8 627.004862n 1.8
+ 627.204862n 0 629.013505n 0 629.213505n 1.8 631.036638n 1.8
+ 631.236638n 0 633.059771n 0 633.259771n 1.8 635.051663n 1.8
+ 635.251663n 0 637.043555n 0 637.243555n 1.8 639.034562n 1.8
+ 639.234562n 0 641.025569n 0 641.225569n 1.8 643.060697n 1.8
+ 643.260697n 0 645.095825n 0 645.295825n 1.8 647.124286n 1.8
+ 647.324286n 0 649.152747n 0 649.352747n 1.8 651.129697n 1.8
+ 651.329697n 0 653.106648n 0 653.306648n 1.8 655.130529n 1.8
+ 655.330529n 0 657.154409n 0 657.354409n 1.8 659.138965n 1.8
+ 659.338965n 0 661.123520n 0 661.323520n 1.8 663.144340n 1.8
+ 663.344340n 0 665.165161n 0 665.365161n 1.8 667.169236n 1.8
+ 667.369236n 0 669.173310n 0 669.373310n 1.8 671.179109n 1.8
+ 671.379109n 0 673.184907n 0 673.384907n 1.8 675.170100n 1.8
+ 675.370100n 0 677.155292n 0 677.355292n 1.8 679.141159n 1.8
+ 679.341159n 0 681.127026n 0 681.327026n 1.8 683.153739n 1.8
+ 683.353739n 0 685.180452n 0 685.380452n 1.8 687.140349n 1.8
+ 687.340349n 0 689.100245n 0 689.300245n 1.8 691.122522n 1.8
+ 691.322522n 0 693.144799n 0 693.344799n 1.8 695.133302n 1.8
+ 695.333302n 0 697.121805n 0 697.321805n 1.8 699.117708n 1.8
+ 699.317708n 0 701.113611n 0 701.313611n 1.8 703.075563n 1.8
+ 703.275563n 0 705.037516n 0 705.237516n 1.8 707.026199n 1.8
+ 707.226199n 0 709.014882n 0 709.214882n 1.8 711.006243n 1.8
+ 711.206243n 0 712.997604n 0 713.197604n 1.8 715.010071n 1.8
+ 715.210071n 0 717.022539n 0 717.222539n 1.8 719.016746n 1.8
+ 719.216746n 0 721.010954n 0 721.210954n 1.8 723.020341n 1.8
+ 723.220341n 0 725.029728n 0 725.229728n 1.8 727.015008n 1.8
+ 727.215008n 0 729.000288n 0 729.200288n 1.8 731.019526n 1.8
+ 731.219526n 0 733.038764n 0 733.238764n 1.8 735.036374n 1.8
+ 735.236374n 0 737.033984n 0 737.233984n 1.8 739.041396n 1.8
+ 739.241396n 0 741.048808n 0 741.248808n 1.8 743.067630n 1.8
+ 743.267630n 0 745.086453n 0 745.286453n 1.8 747.074657n 1.8
+ 747.274657n 0 749.062861n 0 749.262861n 1.8 751.055016n 1.8
+ 751.255016n 0 753.047172n 0 753.247172n 1.8 755.046050n 1.8
+ 755.246050n 0 757.044928n 0 757.244928n 1.8 759.058483n 1.8
+ 759.258483n 0 761.072038n 0 761.272038n 1.8 763.047911n 1.8
+ 763.247911n 0 765.023784n 0 765.223784n 1.8 767.026565n 1.8
+ 767.226565n 0 769.029347n 0 769.229347n 1.8 771.028072n 1.8
+ 771.228072n 0 773.026798n 0 773.226798n 1.8 775.019628n 1.8
+ 775.219628n 0 777.012458n 0 777.212458n 1.8 779.025932n 1.8
+ 779.225932n 0 781.039406n 0 781.239406n 1.8 783.069285n 1.8
+ 783.269285n 0 785.099165n 0 785.299165n 1.8 787.102671n 1.8
+ 787.302671n 0 789.106178n 0 789.306178n 1.8 791.055947n 1.8
+ 791.255947n 0 793.005715n 0 793.205715n 1.8 795.013039n 1.8
+ 795.213039n 0 797.020363n 0 797.220363n 1.8 799.039178n 1.8
+ 799.239178n 0 801.057994n 0 801.257994n 1.8 803.082611n 1.8
+ 803.282611n 0 805.107227n 0 805.307227n 1.8 807.079751n 1.8
+ 807.279751n 0 809.052275n 0 809.252275n 1.8 811.059996n 1.8
+ 811.259996n 0 813.067716n 0 813.267716n 1.8 815.055163n 1.8
+ 815.255163n 0 817.042609n 0 817.242609n 1.8 819.057736n 1.8
+ 819.257736n 0 821.072864n 0 821.272864n 1.8 823.049592n 1.8
+ 823.249592n 0 825.026321n 0 825.226321n 1.8 827.026631n 1.8
+ 827.226631n 0 829.026942n 0 829.226942n 1.8 831.016341n 1.8
+ 831.216341n 0 833.005740n 0 833.205740n 1.8 834.962969n 1.8
+ 835.162969n 0 836.920198n 0 837.120198n 1.8 838.871997n 1.8
+ 839.071997n 0 840.823796n 0 841.023796n 1.8 842.810139n 1.8
+ 843.010139n 0 844.796481n 0 844.996481n 1.8 846.816242n 1.8
+ 847.016242n 0 848.836002n 0 849.036002n 1.8 850.833883n 1.8
+ 851.033883n 0 852.831765n 0 853.031765n 1.8 854.848887n 1.8
+ 855.048887n 0 856.866009n 0 857.066009n 1.8 858.847200n 1.8
+ 859.047200n 0 860.828391n 0 861.028391n 1.8 862.809908n 1.8
+ 863.009908n 0 864.791424n 0 864.991424n 1.8 866.789657n 1.8
+ 866.989657n 0 868.787890n 0 868.987890n 1.8 870.773727n 1.8
+ 870.973727n 0 872.759563n 0 872.959563n 1.8 874.786385n 1.8
+ 874.986385n 0 876.813207n 0 877.013207n 1.8 878.834379n 1.8
+ 879.034379n 0 880.855551n 0 881.055551n 1.8 882.874961n 1.8
+ 883.074961n 0 884.894370n 0 885.094370n 1.8 886.866997n 1.8
+ 887.066997n 0 888.839624n 0 889.039624n 1.8 890.867034n 1.8
+ 891.067034n 0 892.894444n 0 893.094444n 1.8 894.880302n 1.8
+ 895.080302n 0 896.866161n 0 897.066161n 1.8 898.879453n 1.8
+ 899.079453n 0 900.892744n 0 901.092744n 1.8 902.894194n 1.8
+ 903.094194n 0 904.895644n 0 905.095644n 1.8 906.909323n 1.8
+ 907.109323n 0 908.923001n 0 909.123001n 1.8 910.920908n 1.8
+ 911.120908n 0 912.918814n 0 913.118814n 1.8 914.918734n 1.8
+ 915.118734n 0 916.918654n 0 917.118654n 1.8 918.929758n 1.8
+ 919.129758n 0 920.940861n 0 921.140861n 1.8 922.914109n 1.8
+ 923.114109n 0 924.887357n 0 925.087357n 1.8 926.861517n 1.8
+ 927.061517n 0 928.835676n 0 929.035676n 1.8 930.834670n 1.8
+ 931.034670n 0 932.833663n 0 933.033663n 1.8 934.811066n 1.8
+ 935.011066n 0 936.788468n 0 936.988468n 1.8 938.789903n 1.8
+ 938.989903n 0 940.791337n 0 940.991337n 1.8 942.764532n 1.8
+ 942.964532n 0 944.737727n 0 944.937727n 1.8 946.751006n 1.8
+ 946.951006n 0 948.764284n 0 948.964284n 1.8 950.782460n 1.8
+ 950.982460n 0 952.800636n 0 953.000636n 1.8 954.803430n 1.8
+ 955.003430n 0 956.806224n 0 957.006224n 1.8 958.797533n 1.8
+ 958.997533n 0 960.788842n 0 960.988842n 1.8 962.791470n 1.8
+ 962.991470n 0 964.794097n 0 964.994097n 1.8 966.780288n 1.8
+ 966.980288n 0 968.766480n 0 968.966480n 1.8 970.758702n 1.8
+ 970.958702n 0 972.750924n 0 972.950924n 1.8 974.750760n 1.8
+ 974.950760n 0 976.750596n 0 976.950596n 1.8 978.739085n 1.8
+ 978.939085n 0 980.727575n 0 980.927575n 1.8 982.719325n 1.8
+ 982.919325n 0 984.711076n 0 984.911076n 1.8 986.714020n 1.8
+ 986.914020n 0 988.716964n 0 988.916964n 1.8 990.680113n 1.8
+ 990.880113n 0 992.643261n 0 992.843261n 1.8 994.609279n 1.8
+ 994.809279n 0 996.575297n 0 996.775297n 1.8 998.583632n 1.8
+ 998.783632n 0 1000.591966n 0 1000.791966n 1.8 1002.574366n 1.8
+ 1002.774366n 0 1004.556766n 0 1004.756766n 1.8 1006.554417n 1.8
+ 1006.754417n 0 1008.552068n 0 1008.752068n 1.8 1010.534500n 1.8
+ 1010.734500n 0 1012.516932n 0 1012.716932n 1.8 1014.513604n 1.8
+ 1014.713604n 0 1016.510276n 0 1016.710276n 1.8 1018.496188n 1.8
+ 1018.696188n 0 1020.482101n 0 1020.682101n 1.8 1022.481631n 1.8
+ 1022.681631n 0 1024.481161n 0 1024.681161n 1.8 1026.490274n 1.8
+ 1026.690274n 0 1028.499387n 0 1028.699387n 1.8 1030.481768n 1.8
+ 1030.681768n 0 1032.464149n 0 1032.664149n 1.8 1034.446808n 1.8
+ 1034.646808n 0 1036.429466n 0 1036.629466n 1.8 1038.402033n 1.8
+ 1038.602033n 0 1040.374600n 0 1040.574600n 1.8 1042.407825n 1.8
+ 1042.607825n 0 1044.441050n 0 1044.641050n 1.8 1046.488248n 1.8
+ 1046.688248n 0 1048.535447n 0 1048.735447n 1.8 1050.503321n 1.8
+ 1050.703321n 0 1052.471195n 0 1052.671195n 1.8 1054.479829n 1.8
+ 1054.679829n 0 1056.488463n 0 1056.688463n 1.8 1058.550540n 1.8
+ 1058.750540n 0 1060.612616n 0 1060.812616n 1.8 1062.593309n 1.8
+ 1062.793309n 0 1064.574002n 0 1064.774002n 1.8 1066.579813n 1.8
+ 1066.779813n 0 1068.585624n 0 1068.785624n 1.8 1070.605758n 1.8
+ 1070.805758n 0 1072.625892n 0 1072.825892n 1.8 1074.644219n 1.8
+ 1074.844219n 0 1076.662547n 0 1076.862547n 1.8 1078.676731n 1.8
+ 1078.876731n 0 1080.690915n 0 1080.890915n 1.8 1082.684341n 1.8
+ 1082.884341n 0 1084.677768n 0 1084.877768n 1.8 1086.670219n 1.8
+ 1086.870219n 0 1088.662671n 0 1088.862671n 1.8 1090.683715n 1.8
+ 1090.883715n 0 1092.704759n 0 1092.904759n 1.8 1094.663171n 1.8
+ 1094.863171n 0 1096.621582n 0 1096.821582n 1.8 1098.605574n 1.8
+ 1098.805574n 0 1100.589566n 0 1100.789566n 1.8 1102.582703n 1.8
+ 1102.782703n 0 1104.575840n 0 1104.775840n 1.8 1106.566460n 1.8
+ 1106.766460n 0 1108.557079n 0 1108.757079n 1.8 1110.548018n 1.8
+ 1110.748018n 0 1112.538957n 0 1112.738957n 1.8 1114.522688n 1.8
+ 1114.722688n 0 1116.506418n 0 1116.706418n 1.8 1118.501986n 1.8
+ 1118.701986n 0 1120.497553n 0 1120.697553n 1.8 1122.500359n 1.8
+ 1122.700359n 0 1124.503165n 0 1124.703165n 1.8 1126.465094n 1.8
+ 1126.665094n 0 1128.427023n 0 1128.627023n 1.8 1130.415999n 1.8
+ 1130.615999n 0 1132.404974n 0 1132.604974n 1.8 1134.409227n 1.8
+ 1134.609227n 0 1136.413481n 0 1136.613481n 1.8 1138.427379n 1.8
+ 1138.627379n 0 1140.441277n 0 1140.641277n 1.8 1142.475004n 1.8
+ 1142.675004n 0 1144.508731n 0 1144.708731n 1.8 1146.526337n 1.8
+ 1146.726337n 0 1148.543943n 0 1148.743943n 1.8 1150.546576n 1.8
+ 1150.746576n 0 1152.549209n 0 1152.749209n 1.8 1154.544257n 1.8
+ 1154.744257n 0 1156.539305n 0 1156.739305n 1.8 1158.548948n 1.8
+ 1158.748948n 0 1160.558591n 0 1160.758591n 1.8 1162.554341n 1.8
+ 1162.754341n 0 1164.550091n 0 1164.750091n 1.8 1166.569902n 1.8
+ 1166.769902n 0 1168.589713n 0 1168.789713n 1.8 1170.626487n 1.8
+ 1170.826487n 0 1172.663262n 0 1172.863262n 1.8 1174.659014n 1.8
+ 1174.859014n 0 1176.654766n 0 1176.854766n 1.8 1178.633224n 1.8
+ 1178.833224n 0 1180.611681n 0 1180.811681n 1.8 1182.573582n 1.8
+ 1182.773582n 0 1184.535484n 0 1184.735484n 1.8 1186.515945n 1.8
+ 1186.715945n 0 1188.496407n 0 1188.696407n 1.8 1190.508741n 1.8
+ 1190.708741n 0 1192.521075n 0 1192.721075n 1.8 1194.497215n 1.8
+ 1194.697215n 0 1196.473354n 0 1196.673354n 1.8 1198.466677n 1.8
+ 1198.666677n 0 1200.460000n 0 1200.660000n 1.8 1202.457600n 1.8
+ 1202.657600n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.temp 27
.control
set filetype=ascii
save v(CLK)
tran 200p 1.25u
linearize v(CLK)
wrdata tt_27c_1.80v-point000.raw v(CLK)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
